US04377580
To the solution of sodium metal (0.7 g) in dried allylalcohol (90 ml) was added 4-amino-2-chloroquinazoline (3.5 g) and the mixture was stirred for 5 hours at 100° C. After the resultant mixture was concentrated under reduced pressure, to the residue was added a small volume of water. The aqueous mixture was extracted twice with ethyl acetate. The organic layer was washed with water and with aqueous solution saturated with sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crystalline residue, which was recrystallized from a mixture of ethyl acetate and hexane to give crystalline 2-allyloxy-4-aminoquinazoline (2.8 g).

reactant | sodium | 0.7 g | [Na] | Na
reactant | 4-amino-2-chloroquinazoline | 3.5 g | NC1=NC(=NC2=CC=CC=C12)Cl | C8H6ClN3
reactant | allylalcohol | 90 ml | C(C=C)O | C3H6O
product | 2-allyloxy-4-aminoquinazoline | 2.8 g | C(C=C)OC1=NC2=CC=CC=C2C(=N1)N | C11H11N3O
